resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.985844
R2 0 n2 0.981834
R3 0 n4 1.016402
R4 n1 n3 1.006198
R5 n1 n5 1.009981
R6 n2 n3 1.011708
R7 n2 n6 0.995037
R8 n3 n7 0.985301
R9 n4 n5 0.980501
R10 n4 n6 0.98493
R11 n5 n7 0.994515
R12 n6 n7 0.989903
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
